US07199239B2
Intermediate 59: Ethyl (4-{[(3-bromo-2-methylphenyl)(butyl)amino]methyl}-2-methylphenoxy)acetate
To a solution of 3-bromo-N-butyl-2-methylaniline (700 mg, 2.89 mmol) in dry acetonitrile (75 mL) was added ethyl [4-(bromomethyl)-2-methylphenoxy]acetate (830 mg, 2.89 mmol) and N,N-diisopropylethylamine (331 μL, 1.9 mmol). The resultant mixture was heated at 80° C. for 3 h. The reaction mixture was cooled and the solvents removed in vacuo, diluted with water (50 mL) and extracted with CH2Cl2 (2×100 mL). The organic solution was dried (Na2SO4) and the solvents removed in vacuo. Purification by SPE (silica, 20 g) eluted with 100:2 to 100:5 cylclohexane:EtOAc afforded the title compound as a colourless oil (749 mg).

reactant | 3-bromo-N-butyl-2-methylaniline | 2.89 mmol, 700 mg | BrC=1C(=C(NCCCC)C=CC1)C | C11H16BrN
reactant | ethyl [4-(bromomethyl)-2-methylphenoxy]acetate | 2.89 mmol, 830 mg | BrCC1=CC(=C(OCC(=O)OCC)C=C1)C | C12H15BrO3
reactant | N,N-diisopropylethylamine | 1.9 mmol, 331 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | Ethyl (4-{[(3-bromo-2-methylphenyl)(butyl)amino]methyl}-2-methylphenoxy)acetate | 749 mg | BrC=1C(=C(C=CC1)N(CCCC)CC1=CC(=C(OCC(=O)OCC)C=C1)C)C | C23H30BrNO3
